US07081454B2
2-Methyl-4-morpholin-4-yl-6-nitro-phenylamine:
To a 800 ml pressure flask was added Tris(dibenzylideneacetone)dipalladium (2.64 g, 2.88 mmol), 2-(Di-t-butylphosphino)biphenyl (1.42 g, 4.75 mmol) and sodium tert-butoxide (17.5 g, 182 mmol). Then dry THF (500 mL), 4-bromo-2-methyl-6-nitroaniline (30.0 g, 130 mmol) and morpholine (34 ml, 390 mmol) were added. Argon was bubbled through the solution for 1 minute and the flask was sealed. The reaction mixture was stirred at 85° C. for 3 days. THF was evaporated in vacuo and the crude product was preabsorbed on silica and this then transferred on top of a silica gel column. Elution with hexane-ethyl acetate (6:4 to 4:6 to 0:1 gradient) gave, after evaporation of solvents, the title compound (15.2 g red-brown solid, 49.3%). LCMS (M+H)+ m/z 238 (t=0.64 min.) 1H NMR (500 MHz, DMSO-d6) δ 7.32 (1H, s), 7.22 (1H, s), 6.96 (2H, s), 3.72 (4H, broad s), 2.96 (4H, broad s), 2.21 (3H, s).

reactant | 2-(Di-t-butylphosphino)biphenyl | 4.75 mmol, 1.42 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 182 mmol, 17.5 g | CC(C)([O-])C.[Na+]
reactant | 4-bromo-2-methyl-6-nitroaniline | 130 mmol, 30.0 g | BrC1=CC(=C(N)C(=C1)[N+](=O)[O-])C | C7H7BrN2O2
reactant | morpholine | 390 mmol, 34 ml | N1CCOCC1 | C4H9NO
catalyst | Tris(dibenzylideneacetone)dipalladium | 2.88 mmol, 2.64 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 2-Methyl-4-morpholin-4-yl-6-nitro-phenylamine | CC1=C(C(=CC(=C1)N1CCOCC1)[N+](=O)[O-])N | C11H15N3O3
